### PR TITLE
[Merged by Bors] - feat(ArithmeticFunction): lemmas about positivity

### PR DESCRIPTION
**Pull request by yury-harmonic**
Add lemmas like `σ k n = 0 ↔ n = 0`.
Also add `positivity` extensions for `zeta` and `sigma`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 1]
```diff
@@ -393,6 +393,10 @@ theorem zeta_apply {x : ℕ} : ζ x = if x = 0 then 0 else 1 :=
 theorem zeta_apply_ne {x : ℕ} (h : x ≠ 0) : ζ x = 1 :=
   if_neg h
 
+@[simp] theorem zeta_eq_zero {x : ℕ} : ζ x = 0 ↔ x = 0 := by simp [zeta]
+
+@[simp] theorem zeta_pos {x : ℕ} : 0 < ζ x ↔ 0 < x := by simp [Nat.pos_iff_ne_zero]
```
Comment (yury-harmonic) [inline Mathlib/NumberTheory/ArithmeticFunction.lean]:
```suggestion
theorem zeta_eq_zero {x : ℕ} : ζ x = 0 ↔ x = 0 := by simp [zeta]

theorem zeta_pos {x : ℕ} : 0 < ζ x ↔ 0 < x := by simp [Nat.pos_iff_ne_zero]
```

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 2]
```diff
@@ -813,6 +817,18 @@ scoped[ArithmeticFunction.sigma] notation "σ" => ArithmeticFunction.sigma
 theorem sigma_apply {k n : ℕ} : σ k n = ∑ d ∈ divisors n, d ^ k :=
   rfl
 
+@[simp]
+theorem sigma_eq_zero {k n : ℕ} : σ k n = 0 ↔ n = 0 := by
+  rcases eq_or_ne n 0 with rfl | hn
+  · simp
+  · suffices ∃ d, d ∣ n ∧ (d = 0 → k = 0) by simpa [ArithmeticFunction.sigma_apply, hn]
+    use 1
+    simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/ArithmeticFunction.lean]: The `suffices` seems to come out of nowhere; not sure if this is better:
```suggestion
  · refine iff_of_false ?_ hn
    simp_rw [ArithmeticFunction.sigma_apply, Finset.sum_eq_zero_iff, not_forall]
    use 1
    simp [hn]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
I don't feel confident reviewing the positivity extensions, but the lemmas seem fine. Thanks!

File: MathlibTest/positivity.lean [hunk 3]
```diff
@@ -108,6 +109,11 @@ example : (1/4 - 2/3 : α) ≠ 0 := by positivity
 
 end
 
+/- ### `ArithmeticFunction.sigma` and `ArithmeticFunction.zeta` -/
+
+example (a b : ℕ) (hb : 0 < b) : ArithmeticFunction.sigma a b > 0 := by positivity
+example (a : ℕ) (ha : 0 < a) : ArithmeticFunction.zeta a > 0 := by positivity
+
```
Comment (grunweg) [inline MathlibTest/positivity.lean:116]: Can you also add tests for non-negativity?

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 4]
```diff
@@ -1338,3 +1362,32 @@ theorem sum_divisors_mul {m n : ℕ} (hmn : m.Coprime n) :
...
+def evalArithmeticFunctionZeta : PositivityExt where eval {u α} z p e := do
+  match u, α, e with
+  | 0, ~q(ℕ), ~q(ArithmeticFunction.zeta $n) =>
+    let rn ← core z p n
+    assumeInstancesCommute
+    match rn with
+    | .positive pn => return .positive q(Iff.mpr ArithmeticFunction.zeta_pos $pn)
+    | _ => return .nonnegative q(Nat.zero_le _)
+  | _, _, _ => throwError "not ArithmeticFunction.zeta"
+
```
Comment (grunweg) [inline Mathlib/NumberTheory/ArithmeticFunction.lean:1432]: How about also adding an extension about omega (and tests for it)?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this!

File: MathlibTest/positivity.lean (hunk 3 above)
Comment (yury-harmonic) [reply MathlibTest/positivity.lean:116]: These functions take values in `Nat`, so nonnegativity is automatic.

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 4 above)
Comment (yury-harmonic) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:1432]: How should I prove `n > 1` for these extensions?

**Comment by yury-harmonic** [comment]
-awaiting-author

File: Mathlib/NumberTheory/ArithmeticFunction.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/NumberTheory/ArithmeticFunction.lean:1432]: Right, never mind.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: MathlibTest/positivity.lean [hunk 5]
```diff
@@ -108,6 +109,11 @@ example : (1/4 - 2/3 : α) ≠ 0 := by positivity
 
 end
 
+/- ### `ArithmeticFunction.sigma` and `ArithmeticFunction.zeta` -/
+
+example (a b : ℕ) (hb : 0 < b) : ArithmeticFunction.sigma a b > 0 := by positivity
+example (a : ℕ) (ha : 0 < a) : ArithmeticFunction.zeta a > 0 := by positivity
```
Comment (sgouezel) [inline MathlibTest/positivity.lean]: Could you reverse the order of the inequalities?

**Review by sgouezel — COMMENTED** [review]
bors d+

**Comment by yury-harmonic** [comment]
bors merge

**Comment by yury-harmonic** [comment]
bors merge
